US05157114
2',3'-Dideoxy-5-ethynyl-3'-fluoro-5'-O-(trimethylacetyl)uridine 0.2 hydrate
To a stirred solution of 2',3'-dideoxy-5-ethynyl-3'-fluorouridine (0.106 g 0.4 mmol) in dry pyridine (5 ml) at 0° C. was added trimethylacetyl chloride (0.06 ml, 0.48 mmol) and stirring continued at 0° C. for 1.5 hours. After stirring at room temperature for 24 hours, a further aliquot of the acid chloride (0.03 ml, 0.24 mmol) was added and stirring maintained for a further 3 hours. After quenching with methanol (3 ml), the solvent was removed by evaporation under reduced pressure and co-evaporated with several portions of ethanol (2×30 ml) and the resulting oil was chromatrographed on a silica gel column eluting with 5% MeOH/CH2Cl2. The appropriate fractions were combined and evaporated to dryness and the residue was recrystallised twice from ethanol to give the chromatographically pure title product.

reactant | 2',3'-dideoxy-5-ethynyl-3'-fluorouridine | 0.4 mmol, 0.106 g | C(#C)C=1C(NC(N([C@H]2C[C@@H]([C@@H](CO)O2)F)C1)=O)=O | C11H11FN2O4
reactant | trimethylacetyl chloride | 0.48 mmol, 0.06 ml | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2',3'-Dideoxy-5-ethynyl-3'-fluoro-5'-O-(trimethylacetyl)uridine | C(#C)C=1C(NC(N([C@H]2C[C@@H]([C@@H](COC(C(C)(C)C)=O)O2)F)C1)=O)=O | C16H19FN2O5
